US06121285
4-(1-Ethoxycarbonylcyclobutyl)-1-[(S)-1-phenylethyl]-3-pyrrolin-2-one
(E)-Ethyl 3-(1-ethoxycarbonylcyclobutyl)-2-butenoate (16.91 g, 70 mmol) was dissolved in chloroform (180 ml), and the solution was mixed with N-bromosuccinimide (12.53 g, 70 mmol) and a catalytic amount of azobisisobutyronitrile and heated under reflux for 18 hours. After completing the reaction, the solvent was evaporated, the thus obtained residue was mixed with carbon tetrachloride (100 ml), insoluble material was removed by filtration and then the resulting filtrate was concentrated. The thus obtained residue was dissolved in ethanol (100 ml) and mixed with sodium bicarbonate (11.82 g, 140 mmol). At room temperature, thereto was added dropwise (S)-phenylethylamine (9.87 ml, 77 mmol). After completing the dropwise addition, the mixture was heated under reflux for 3 hours. After completing the reaction, the solvent was evaporated, and the thus obtained residue was mixed with methylene chloride (300 ml). After removing insoluble material by filtration, the solvent was evaporated and the resulting residue was subjected to silica gel column chromatography and eluted with an eluant of n-hexane: ethyl acetate=1:1, to thereby obtain 19.57 g (43%) of the title compound in an oily form.

reactant | (E)-Ethyl 3-(1-ethoxycarbonylcyclobutyl)-2-butenoate | 70 mmol, 16.91 g | C(C)OC(=O)C1(CCC1)/C(=C/C(=O)OCC)/C | C13H20O4
reactant | N-bromosuccinimide | 70 mmol, 12.53 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | sodium bicarbonate | 140 mmol, 11.82 g | C([O-])(O)=O.[Na+]
solvent | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(1-Ethoxycarbonylcyclobutyl)-1-[(S)-1-phenylethyl]-3-pyrrolin-2-one | 19.57 g, 43% | C(C)OC(=O)C1(CCC1)C1=CC(N(C1)[C@@H](C)C1=CC=CC=C1)=O | C19H23NO3
